### PR TITLE
[Merged by Bors] - chore: rename `Coalg{Hom,Equiv}Class.toCoalg{Hom,Equiv}` as `Coalg{Hom,Equiv}.ofClass`

### PR DESCRIPTION
**Pull request by grunweg**
and rename affected lemmas accordingly.

Following item (2) in https://github.com/leanprover-community/mathlib4/issues/31365, the definition which implements the coercion from a morphism class FooHomClass to FooHoms should be called FooHom.ofClass.

This makes two more classes follow this pattern.

---

- [x] depends on: #43557

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Bialgebra/TensorProduct.lean [hunk 1]
```diff
@@ -141,10 +141,7 @@ variable (R S A) in
 bialgebra equivalence. -/
 @[expose] protected def rid : A ⊗[R] R ≃ₐc[S] A where
   toCoalgEquiv := Coalgebra.TensorProduct.rid R S A
-  map_mul' x y := by
-    simp only [CoalgEquiv.toCoalgHom_eq_coe, CoalgHom.toLinearMap_eq_coe, AddHom.toFun_eq_coe,
-      LinearMap.coe_toAddHom, CoalgHom.coe_toLinearMap, CoalgHom.coe_coe,
-      coalgebra_rid_eq_algebra_rid_apply, map_mul]
+  map_mul' x y := by simp [coalgebra_rid_eq_algebra_rid_apply, map_mul]
```
Comment (grunweg) [inline Mathlib/RingTheory/Bialgebra/TensorProduct.lean]: Unsqueeze a terminal simp, while at it. There is no perceptive performance difference.

File: Mathlib/RingTheory/Coalgebra/Hom.lean [hunk 2]
```diff
@@ -137,29 +141,35 @@ theorem coe_linearMap_mk {f : A →ₗ[R] B} (h h₁) : ((⟨f, h, h₁⟩ : A 
...
   rfl
 
+@[deprecated (since := "2026-09-09")] alias coe_toLinearMap := coe_linearMapOfClass
+
 @[norm_cast]
 theorem coe_toAddMonoidHom (f : A →ₗc[R] B) : ⇑(f : A →+ B) = f :=
   rfl
 
+-- XXX: is this naming scheme appropriate and consistent with similar classes?
 theorem coe_fn_injective : @Function.Injective (A →ₗc[R] B) (A → B) (↑) :=
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Hom.lean]: I think just `coe_injective` is enough here?

File: Mathlib/RingTheory/Bialgebra/TensorProduct.lean (hunk 1 above)
Comment (themathqueen) [reply Mathlib/RingTheory/Bialgebra/TensorProduct.lean]: don't think you even need the `map_mul`
```suggestion
  map_mul' x y := by simp [coalgebra_rid_eq_algebra_rid_apply]
```

File: Mathlib/RingTheory/Coalgebra/Equiv.lean [hunk 3]
```diff
@@ -55,13 +55,14 @@ variable {F R A B : Type*} [CommSemiring R] [AddCommMonoid A] [AddCommMonoid B]
 
 /-- Reinterpret an element of a type of coalgebra equivalences as a coalgebra equivalence. -/
 @[coe]
-def toCoalgEquiv [EquivLike F A B] [CoalgEquivClass F R A B] (f : F) : A ≃ₗc[R] B :=
+def _root_.CoalgEquiv.ofClass [EquivLike F A B] [CoalgEquivClass F R A B] (f : F) : A ≃ₗc[R] B :=
   { (f : A →ₗc[R] B), (SemilinearEquivClass.semilinearEquiv f : A ≃ₗ[R] B) with }
+@[deprecated (since := "2026-09-08")] alias toCoalgEquiv := CoalgEquiv.ofClass
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Equiv.lean:61]:
```suggestion

@[deprecated (since := "2026-09-08")] alias toCoalgEquiv := CoalgEquiv.ofClass
```

File: Mathlib/RingTheory/Coalgebra/Equiv.lean [hunk 4]
```diff
@@ -126,24 +127,28 @@ variable [AddCommMonoid A] [AddCommMonoid B] [AddCommMonoid C] [Module R A] [Mod
 variable (e e' : A ≃ₗc[R] B)
 
 @[simp, norm_cast]
-theorem coe_coe : ⇑(e : A →ₗc[R] B) = e :=
+theorem coe_ofClass : ⇑(ofClass e) = e :=
   rfl
+@[deprecated (since := "2026-09-08")] alias coe_coe := coe_ofClass
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Equiv.lean]:
```suggestion

@[deprecated (since := "2026-09-08")] alias coe_coe := coe_ofClass
```

File: Mathlib/RingTheory/Coalgebra/Equiv.lean [hunk 5]
```diff
@@ -126,24 +127,28 @@ variable [AddCommMonoid A] [AddCommMonoid B] [AddCommMonoid C] [Module R A] [Mod
...
 
 @[nolint synTaut, deprecated "Now a syntactic tautology" (since := "2026-04-12")]
 theorem toLinearEquiv_eq_coe (f : A ≃ₗc[R] B) : f.toLinearEquiv = f :=
   rfl
 
 @[simp]
-theorem toCoalgHom_eq_coe (f : A ≃ₗc[R] B) : f.toCoalgHom = f :=
+theorem toCoalgHom_eq_ofClass (f : A ≃ₗc[R] B) : f.toCoalgHom = f :=
   rfl
+@[deprecated (since := "2026-09-08")] alias toCoalgHom_eq_coe := toCoalgHom_eq_ofClass
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Equiv.lean]:
```suggestion

@[deprecated (since := "2026-09-08")] alias toCoalgHom_eq_coe := toCoalgHom_eq_ofClass
```

File: Mathlib/RingTheory/Coalgebra/Equiv.lean [hunk 6]
```diff
@@ -126,24 +127,28 @@ variable [AddCommMonoid A] [AddCommMonoid B] [AddCommMonoid C] [Module R A] [Mod
...
 @[simp]
 theorem coe_toLinearEquiv : ⇑(e : A ≃ₗ[R] B) = e :=
   rfl
 
+-- TODO: is this the right way to name this lemma?
 @[simp]
-theorem coe_toCoalgHom : ⇑(e : A →ₗc[R] B) = e :=
+theorem coe_coAlgHomOfClass : ⇑(CoAlgHom.ofClass e) = e :=
   rfl
+@[deprecated (since := "2026-09-08")] alias coe_toCoalgHom := coe_coAlgHomOfClass
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Equiv.lean]:
```suggestion

@[deprecated (since := "2026-09-08")] alias coe_toCoalgHom := coe_coAlgHomOfClass
```

File: Mathlib/RingTheory/Coalgebra/Equiv.lean [hunk 7]
```diff
@@ -126,24 +127,28 @@ variable [AddCommMonoid A] [AddCommMonoid B] [AddCommMonoid C] [Module R A] [Mod
...
+@[deprecated (since := "2026-09-08")] alias toCoalgHom_eq_coe := toCoalgHom_eq_ofClass
 
 @[simp]
 theorem coe_toLinearEquiv : ⇑(e : A ≃ₗ[R] B) = e :=
   rfl
 
+-- TODO: is this the right way to name this lemma?
 @[simp]
-theorem coe_toCoalgHom : ⇑(e : A →ₗc[R] B) = e :=
+theorem coe_coAlgHomOfClass : ⇑(CoAlgHom.ofClass e) = e :=
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Equiv.lean]: i think `coalg` might be better than `coAlg`?
```suggestion
theorem coe_coalgHomOfClass : ⇑(CoAlgHom.ofClass e) = e :=
```

File: Mathlib/RingTheory/Coalgebra/Hom.lean [hunk 8]
```diff
@@ -137,29 +141,37 @@ theorem coe_linearMap_mk {f : A →ₗ[R] B} (h h₁) : ((⟨f, h, h₁⟩ : A 
   rfl
 
 @[simp]
-theorem toLinearMap_eq_coe (f : A →ₗc[R] B) : f.toLinearMap = f :=
+theorem toLinearMap_eq_ofClass (f : A →ₗc[R] B) : f.toLinearMap = f :=
   rfl
+@[deprecated (since := "2026-09-09")] alias toLinearMap_eq_coe := toLinearMap_eq_ofClass
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Hom.lean:146]:
```suggestion

@[deprecated (since := "2026-09-09")] alias toLinearMap_eq_coe := toLinearMap_eq_ofClass
```

File: Mathlib/RingTheory/Coalgebra/Equiv.lean (hunk 7 above)
Comment (grunweg) [reply Mathlib/RingTheory/Coalgebra/Equiv.lean]: I agree your name looks nicer --- but since the declaration is called `CoAlgHom.ofClass`, isn't the current name what follows from the naming convention?

Comment (themathqueen) [reply Mathlib/RingTheory/Coalgebra/Equiv.lean]: Oh I didn't even notice. Shouldn't it be `CoalgHom.ofClass`? Otherwise you wouldn't be able to use anonymous dot notation `.ofClass f`?

File: Mathlib/RingTheory/Coalgebra/Hom.lean [hunk 9]
```diff
@@ -68,14 +68,16 @@ variable {R A B F : Type*} [CommSemiring R]
 /-- Turn an element of a type `F` satisfying `CoalgHomClass F R A B` into an actual
 `CoalgHom`. This is declared as the default coercion from `F` to `A →ₗc[R] B`. -/
 @[coe]
-def toCoalgHom (f : F) : A →ₗc[R] B :=
+def _root_.CoAlgHom.ofClass (f : F) : A →ₗc[R] B :=
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Hom.lean]: you have `CoalgEquiv.ofClass` correctly, but this one isn't, I don't think

```suggestion
def _root_.CoalgHom.ofClass (f : F) : A →ₗc[R] B :=
```

File: Mathlib/RingTheory/Coalgebra/Equiv.lean (hunk 7 above)
Comment (grunweg) [reply Mathlib/RingTheory/Coalgebra/Equiv.lean]: Oops, indeed. Fixed.

File: Mathlib/RingTheory/Coalgebra/Equiv.lean [hunk 10]
```diff
@@ -126,25 +128,31 @@ variable [AddCommMonoid A] [AddCommMonoid B] [AddCommMonoid C] [Module R A] [Mod
...
 
+@[deprecated (since := "2026-09-08")] alias toCoalgHom_eq_coe := toCoalgHom_eq_ofClass
+
 @[simp]
 theorem coe_toLinearEquiv : ⇑(e : A ≃ₗ[R] B) = e :=
   rfl
 
 @[simp]
-theorem coe_toCoalgHom : ⇑(e : A →ₗc[R] B) = e :=
+theorem coe_coalgHomOfClass : ⇑(ofClass e) = e :=
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Equiv.lean]:
```suggestion
theorem coe_coalgHomOfClass : ⇑(CoalgHom.ofClass e) = e :=
```

File: Mathlib/RingTheory/Coalgebra/Equiv.lean [hunk 11]
```diff
@@ -126,25 +128,31 @@ variable [AddCommMonoid A] [AddCommMonoid B] [AddCommMonoid C] [Module R A] [Mod
 variable (e e' : A ≃ₗc[R] B)
 
 @[simp, norm_cast]
-theorem coe_coe : ⇑(e : A →ₗc[R] B) = e :=
+theorem coe_ofClass : ⇑(ofClass e) = e :=
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Equiv.lean]: I'm confused.
`e` is already a coalgebra equivalence, so `ofClass e` is basically meaningless?
Isn't this and `coe_coalgHomOfClass` exactly the same?

Comment (grunweg) [reply Mathlib/RingTheory/Coalgebra/Equiv.lean]: Good catch! That was indeed a duplicate; removed.

File: Mathlib/RingTheory/Coalgebra/Equiv.lean [hunk 12]
```diff
@@ -126,24 +128,26 @@ variable [AddCommMonoid A] [AddCommMonoid B] [AddCommMonoid C] [Module R A] [Mod
 variable (e e' : A ≃ₗc[R] B)
 
 @[simp, norm_cast]
-theorem coe_coe : ⇑(e : A →ₗc[R] B) = e :=
```
Comment (themathqueen) [inline Mathlib/RingTheory/Coalgebra/Equiv.lean:129]: can you add a `coe_ofClass` lemma since that never existed?

Comment (grunweg) [reply Mathlib/RingTheory/Coalgebra/Equiv.lean:129]: Good idea; done.

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
